US05001131
5,6,7,8-Tetrahydro-3-methyl-8-(4-nitrobenzamido) quinoline
To 8-amino-5,6,7,8-tetrahydro-3-methylquinoline (4.5g, 2.27 M moles) in CH2Cl2 was added 4-nitrobenzoylchloride (4.2g, 2.26Mmoles) followed by sufficient triethylamine to clear the solution and then form a new precipitate. This material was left overnight and then the solvent removed. The residue was taken up in 2M HCl and washed with ethyl acetate. The aquous layer was then basified with Na2CO3 and extracted with chloroform. The organic solution was dried (MgSO4) and evaporated under reduced pressure to give a residue which was treated with Et2O/HCl to give a white solid identified by infra-red and nmr specroscopy as the hydrochloride of the title compound.

reactant | 8-amino-5,6,7,8-tetrahydro-3-methylquinoline | 2.27 M, 4.5g | NC1CCCC=2C=C(C=NC12)C | C10H14N2
reactant | 4-nitrobenzoylchloride | 2.26Mmoles, 4.2g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | Et2O HCl | CCOCC.Cl
reactant | hydrochloride | Cl | ClH
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 5,6,7,8-Tetrahydro-3-methyl-8-(4-nitrobenzamido) quinoline | CC=1C=NC=2C(CCCC2C1)NC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C17H17N3O3
